US07160901B2
b. 4-(2-trifluoroacetylamino-ethylamino)-nitrobenzene
1.5 g (5.3 mmol) of 4-(2-tert.butoxycarbonylamino-ethylamino)-nitrobenzene are stirred in 15 ml of trifluoroacetic acid for 3 hours at ambient temperature. Then 0.8 ml (5.7 mmol) of trifluoroacetic acid anhydride are added while cooling with ice. The reaction is left overnight to come up to ambient temperature. It is then evaporated down, diluted with water and made alkaline with sodium hydrogen carbonate. The crude product is suction filtered and purified by chromatography (silica gel; dichloromethane/methanol=98:2).

reactant | 4-(2-tert.butoxycarbonylamino-ethylamino)-nitrobenzene | 5.3 mmol, 1.5 g | C(C)(C)(C)OC(=O)NCCNC1=CC=C(C=C1)[N+](=O)[O-] | C13H19N3O4
reactant | trifluoroacetic acid anhydride | 5.7 mmol, 0.8 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(2-trifluoroacetylamino-ethylamino)-nitrobenzene | FC(C(=O)NCCNC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C10H10F3N3O3
